US08486940B2
1-(1H-benzo[d]imidazol-5-yl)-5-cyclohexylimidazolidin-2-one
The compound was synthesized as trifluoroacetate salt starting from 5-aminobenzimidazole (0.59 g, 4.4 mmol), cyclohexanecarbaldehyde (0.45 g, 0.485 mL, 4 mmol), TMSCN (0.5 mL, 4 mmol), PdC (10%, 0.05 g). di-(imidazol-1-yl)methanone (0.64 g, 3.92 mmol), as described in method 2. The product was purified via preparative HPLC using a water-acetonitrile gradient with 0.04% trifluoroacetic acid.

reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
reactant | 5-aminobenzimidazole | 4.4 mmol, 0.59 g | NC1=CC2=C(N=CN2)C=C1 | C7H7N3
reactant | cyclohexanecarbaldehyde | 4 mmol, 0.485 mL, 0.45 g | C1(CCCCC1)C=O | C7H12O
reactant | TMSCN | 4 mmol, 0.5 mL | [Si](C)(C)(C)C#N | C4H9NSi
reactant | di-(imidazol-1-yl)methanone | 3.92 mmol, 0.64 g | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
product | 1-(1H-benzo[d]imidazol-5-yl)-5-cyclohexylimidazolidin-2-one | N1C=NC2=C1C=CC(=C2)N2C(NCC2C2CCCCC2)=O | C16H20N4O
